2193-01-13 06:11:00 Physician Resident Progress Note
Chief Complaint: Chest Pain
   24 Hour Events:
   - Patient informed about cocaine positivity - upset and in denial.
   Eventually calmers
   - given 500cc bolus for BP in low 80's
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-1-12**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Flowsheet Data as of  [**2193-1-13**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**95**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 73 (66 - 84) bpm
   BP: 82/40(50) {76/40(45) - 104/72(83)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,368 mL
                                                                    268 mL
   PO:
                                                                    400 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,968 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    183 mL
   Urine:
                                                                  1,000 mL
                                                                    183 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,368 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   271 K/uL
   12.2 g/dL
   275 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.8 mEq/L
   11 mg/dL
   100 mEq/L
   133 mEq/L
   37.1 %
   10.9 K/uL
        [image002.jpg]
                             [**2193-1-12**]  03:49 PM
   WBC
   10.9
   Hct
   37.1
   Plt
   271
   Cr
   0.7
   TropT
   4.16
   Glucose
   275
   Other labs: PT / PTT / INR:11.8/27.5/1.0, CK / CKMB /
   Troponin-T:1430/170/4.16, Differential-Neuts:69.6 %, Lymph:26.5 %,
   Mono:2.4 %, Eos:1.0 %, Mg++:1.7 mg/dL
   Fluid analysis / Other labs: Tot Chol: 260
   Triglyc: 323
   HDL: 41
   CHOL/HD: 6.5
   LDLcalc: 160
   Imaging: C Cath
   1. Selective coronary angiography in this right dominant system
   demonstrated one vessel disease. The LMCA had no angiographically
   apparent disease. The LAD had a patent stent and no angiographically
   apparent disease. The Cx had no angiographically apparent disease. The
   RCA had a distal 95% stenosis with TIMI 2 flow into the more distal
   branches.
   2. Limited resting hemodynamics revealed an elevated left sided filling
   pressure of 30 mmHg (LVEDP). The central aortic pressure was 97/58
   mmHg.
   There was no transaortic gradient on pullback from the LV to the aorta.
   3. Left ventriculography revealed a calculated LVEF of 34%. There was
   hypokinesis of the posterobasal, inferior, apical and anterolateral
   walls.
   Assessment and Plan
    44F with hx of 1 vessel CAD s/p MI [**2186**], CYPER to LAD in [**2186**], IDDM,
   and Polysubstance abuse presents with 3-4 days of crescendo chest pain,
   STEMI and DES x2 to RCA. This is a new diagnosis of 2 vessel disease.
   .
   # CORONARIES:  This is a woman with a Right Dominant system and early
   onset 1V CAD in the LAD that accelerated slowly between [**2186**]-[**2190**] and
   is now 1V CAD involving the RCA s/p Inferiolateral MI with akinesis in
   other territories. This will have to be sorted out. Her Killip Class is
   1, her TIMI score is 6 (DM, sBP < 100, weight < 67 and time to tx >
   4hrs). Her 30 day mortality risk is 16%. The acceleration of her plaque
   burden in the RCA is brisker than expected. Her risk factors are Fhx,
   uncontrolled IDDM, Dyslipidemia and cocaine abuse. She received 2 DES.
   - confirm plaque burden
   - continue plavix 75 mg for at least one year
   - integrillin x 18 hours
   - aspirin 325 daily, likely to d/c on 81mg daily
   - atorvastatin 80 daily, then 80 of simvastatin on dc (price)
   - beta blockade likely safe in cocaine, will use labetalol for now
   allowing for theoretical but doubtful interactions
   - counsel regarding cocaine
   .
   # PUMP: She has known diastolic dysfunction as well as systolic
   dysfunction, with an EF of 45% in [**2186**] and 35% by [**2193-1-12**] LVgram. This
   could reflect a component of stunned myocardium. The major concern is
   that hers is a right dominant system with proven collaterals to left
   and this is an RCA infarct; in this stunned state she is preload
   dependent
   - TTE on monday
   - hold all nitrates
   - O2 to prevent pulm vasoconstriction
   - fluids if sBP < 90
   .
   # IDDM, uncontrolled with complication: Ms [**Known lastname 10954**] has never had a
   normal A1c in our system. Uncontrolled DM is likely the most important
   factor in her brisk CAD progression.
   - SQ insulin: [**Hospital1 **] NPH per patient home dose with SS
   - QACQHS fingersticks
   - check a1c
   - sw for medication assistance
   .
   # Substance Abuse: Patient with positive cocaine and benzo's in urine,
   in addition to methadone. When broached with patient, she became
   tearful and very upset; denied using cocaine adamantly.
   - SW consult
   - check HIV given hx of hcv and cocaine use
   .
   # Hyperlipidemia: Last LDL 170, TG > 200. Her HDL is usually > 60.
   - 80 of Atorvastatin in house, then 80 of simvastatin on dc (price)
   .
   # RHYTHM:  Patient in Sinus.
   - want rate between 55-70
   - can use ccb for rate control if needed
   .
   # PAD: Patient with 1 block claudication, diminished DP pulses and know
   PV lesions
   - optimize medically
   .
   # Tobacco Abuse: patient counselled
   - nicotine patch
   - counselling
   .
   FEN: Cardiac Heart Healthy, Diabetic
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with sq heparin
   -Pain management with prn
   -Bowel regimen with colace, senna
   .
   CODE: Confirmed Full
   .
   COMM:  [**Name (NI) **]; Legal husband [**Name (NI) 10955**] [**Name (NI) 10954**] [**Telephone/Fax (1) 10956**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2193-1-12**] 03:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s).
   I would add the following remarks:
   Medical Decision Making
   Will put on ACE for BP control in this diabetic. Has PAD that needs
   evaluation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2193-1-13**] 09:32 ------

2193-01-14 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started dilt and ACEI, but sBP ranged from 70s-100s and HR 60s-70s,
   so dilt was held, ACEI continued
   - s/p 500cc NS for hypotension, sBP around 100 afterwards
   - was going to be called out, but due to hypotension pt stayed in CCU
   - pt states her BP has always been running low, sBP in the 80s
   - pt states she has had a heart murmur since when she was a child
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-1-14**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**95**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 71 (60 - 84) bpm
   BP: 85/61(67) {67/36(0) - 113/66(75)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                  2,478 mL
                  PO:
                                                                  1,280 mL
                  TF:
   IVF:
                                                                  1,198 mL
   Blood products:
   Total out:
                                                                  1,058 mL
                                                                    150 mL
   Urine:
                                                                  1,058 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,420 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   HEENT : Normocephalic, PERRL, Poor dentition
   Cardiovascular: regular rhythm, normal rate, 2/6 systolic murmur best
   heard at LUSB
   Respiratory / Chest: CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present, Non-distended
   Extremities: no LE edema
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Diminished), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   11.2 g/dL
   259 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.2 mEq/L
   11 mg/dL
   102 mEq/L
   134 mEq/L
   33.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2193-1-12**]  03:49 PM
                             [**2193-1-13**]  05:32 AM
   WBC
   10.9
   8.8
   Hct
   37.1
   33.5
   Plt
   271
   259
   Cr
   0.7
   0.6
   TropT
   4.16
   3.38
   Glucose
   275
   259
   Other labs: PT / PTT / INR:11.8/27.5/1.0, CK / CKMB /
   Troponin-T:1147/112/3.38, Differential-Neuts:69.6 %, Lymph:26.5 %,
   Mono:2.4 %, Eos:1.0 %, Mg++:1.6 mg/dL
   TTE: pending
   Assessment and Plan
   44F with hx of 1 vessel CAD s/p MI [**2186**], CYPER to LAD in [**2186**], IDDM,
   and Polysubstance abuse presents with 3-4 days of crescendo chest pain,
   STEMI and DES x2 to RCA. This is a new diagnosis of 2 vessel disease.
   .
   # CORONARIES:  Patient with a right dominant system and early onset 1V
   CAD in the LAD that accelerated slowly between [**2186**]-[**2190**] and is now 1V
   CAD involving the RCA s/p Inferiolateral MI with akinesis in other
   territories. The acceleration of her plaque burden in the RCA is more
   accelerated than expected. Her risk factors are Fhx, uncontrolled IDDM,
   Dyslipidemia and cocaine abuse. She received 2 DES to RCA on [**1-12**].
   - continue plavix 75 mg for at least one year, need SW medication
   assistance to make sure pt will take plavix according to schedule
   - continue aspirin 325 daily, likely to d/c on 81mg daily
   - continue atorvastatin 80 daily, then 80 of simvastatin on dc (price)
   - will transition captopril 3.125mg TID to low dose lisinopril 5mg
   daily today
   - CCB (dilt) was ordered but HR was in the 60-70s and BP low in the
   70s-100s yesterday so CCB was discontinued
   - counsel regarding cocaine
   - PT today
   - SW consult
   .
   # HYPOTENSION: Patient states her blood pressure has been running low
   with sBP in the 80s for many years.
   - continue to monitor
   - goal sBP 80-100
   - will transition captopril 3.125mg TID to low dose lisinopril 5mg
   daily today
   .
   # PUMP: She has known diastolic dysfunction as well as systolic
   dysfunction, with an EF of 45% in [**2186**] and 35% by [**2193-1-12**] LVgram. This
   could reflect a component of stunned myocardium. The major concern is
   that hers is a right dominant system with proven collaterals to left
   and this is an RCA infarct; in this stunned state she is preload
   dependent.
   - TTE today
   - hold all nitrates
   - no BB for now given cocaine abuse, will continue low dose ACEI as
   above
   - O2 to prevent pulm vasoconstriction
   - fluids if sBP < 90
   .
   # IDDM, uncontrolled with complication: Ms [**Known lastname 10954**] has never had a
   normal A1c in our system. Uncontrolled DM is likely the most important
   factor in her rapid CAD progression.  Patient also has profound
   diabetic neuropathy as a result of uncontrolled diabetes.
   - SQ insulin: [**Hospital1 **] NPH per patient home dose with SS
   - QACQHS fingersticks
   - f/u on Hga1c
   - sw consult for medication assistance
   - patient will need [**Last Name (un) 72**] referral for better glucose control
   .
   # Substance Abuse: Patient with positive cocaine and benzo's in urine,
   in addition to methadone. When broached with patient, she became
   tearful and very upset; denied using cocaine adamantly.
   - SW consult
   - counsel against drug use
   .
   # Hyperlipidemia: cholesterol 266, triglyceride 323, HDL 41, LDL 160.
   - continue Atorvastatin 80mg daily in house, then simvastatin 80mg on
   dc (price)
   .
   # RHYTHM:  Patient in Sinus. Rate in the low 60s currently.
   - goal heart rate between 55-70
   - can use CCB for rate control if needed, not indicated currently.
   .
   # PAD: Patient with 1 block claudication, diminished DP pulses
   bilaterally.
   - continue aspirin and statin
   .
   # Tobacco Abuse: patient counseled.  She is doing well on nicotine
   patch.
   - continue nicotine patch
   - counseling against smoking
   ICU Care
   Nutrition:
   Regular cardiac healthy diabetic diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2193-1-12**] 03:03 PM
   Prophylaxis:
   DVT: subcutaneous heparin
   Stress ulcer: none
   VAP:  n/a
   Comments:
   Communication:  Comments: Patient; Legal husband [**Name (NI) 10955**] [**Name (NI) 10954**]
   [**Telephone/Fax (1) 10956**]
   Code status: Full code
   Disposition: will d/c today after TTE and PT eval and SW medication
   assistance, and if BP stable on 5mg lisinopril
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   She was counseled re need to take clopidogrel for one year given that
   drug eleuting stents were placed.  She was counseled re need to avoid
   cocaine use. She will follow up with Dr. [**Last Name (STitle) **].
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2193-1-14**] 10:25 ------